data/oMe_Silver.jsonl
{"reaction_id": "NR-330_1-C_2-C#N_3-C(=O)C_4-c1ccc(cc1)c2ccccc2_5-C(F)(F)F_6-c1ccccc1C_7-c1ccc(C#N)cc1_8-CC","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["CC(=O)C=C(C#N)C(=O)C","c1ccc(C#N)cc1C(=O)C(c1ccccc1C)=C(C(F)(F)F)c1ccc(cc1)c2ccccc2","P(CC)(CC)CC"],"products_smiles": ["CC(=O)C(=C(C#N)C(=O)C)C(c1ccc(cc1)c2ccccc2)(C(F)(F)F)C(c1ccccc1C)C(=O)c1ccc(C#N)cc1"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC([O-])=CC(C#N)(C(=O)C)[P+](CC)(CC)CC","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=O)C(C(C#N)(C(=O)C)([P+](CC)(CC)CC))C(c1ccc(cc1)c2ccccc2)(C(F)(F)F)C(c1ccccc1C)=C([O-])c1ccc(C#N)cc1","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC([O-])=C(C(C#N)(C(=O)C)([P+](CC)(CC)CC))C(c1ccc(cc1)c2ccccc2)(C(F)(F)F)C(c1ccccc1C)C(=O)c1ccc(C#N)cc1","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(=O)C(=C(C#N)C(=O)C)C(c1ccc(cc1)c2ccccc2)(C(F)(F)F)C(c1ccccc1C)C(=O)c1ccc(C#N)cc1","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
{"reaction_id": "NR-313_1-OC_2-N(=O)=O_3-C(C)C_4-C(F)(F)F_5-OC","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1I"],"products_smiles": ["c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1c2c(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c2(OC)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1[Cu](I)c2c(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c2(OC)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c(OC)c1c2c(OC)c(N(=O)=O)c(C(C)C)c(C(F)(F)F)c2(OC)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
